US07465795B2
4-amino-N-propyl-8-(1H-pyrazol-4-yl)cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (194 mg, 1.000 mmol) were reacted to afford the title compound (35 mg, 25% yield) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ 12.97 (br, 1H), 9.20 (broad triplet, 1H), 8.48 (br, 2H), 8.23 (d, J=8.3 Hz, 1H), 8.14 (d, J=6.6 Hz, 1H), 7.70 (m, 1H), 3.32 (m, 2H), 1.62 (apparent sextet, J=7.0 Hz, 2H), 0.93 (t, J=7.0 Hz, 3H). MS APCI, m/z=297 (M+H). HPLC 1.43 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.000 mmol, 194 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 4-amino-N-propyl-8-(1H-pyrazol-4-yl)cinnoline-3-carboxamide | 35 mg, 25% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NNC1)C(=O)NCCC | C15H16N6O
